US08580841B2
Step A: Preparation of 1-Cyclopentyl-2-(trifluoromethyl)benzene.
In a 5 L 3-necked, round-bottomed flask fitted with a mechanical stirrer, a temperature probe, a dry nitrogen inlet, a condenser and an addition funnel was placed anhydrous THF (750 mL) and magnesium (40.5 g, 1667 mmol) under N2. The slurry was cooled to 10° C. in an ice bath. A solution of FeCl3 (18.02 g, 111 mmol) in anhydrous THF (80 mL) (Note: dissolution of FeCl3 in THF was exothermic) was added dropwise to the magnesium slurry via a syringe. N1,N1,N2,N2-tetramethylethane-1,2-diamine (201 mL, 1333 mmol) was added to the reaction mixture via a 500 mL addition funnel at 15° C. causing the temperature to go up to 22.5° C. The reaction mixture was cooled to 18° C. and stirred at that temperature for 1 h and 45 min. It was then heated to 44-45° C., stirred for 1 h, cooled to 5-10° C., and added a mixture of 1-bromo-2-(trifluoromethyl)benzene (150 mL, 1111 mmol) and bromocyclopentane (143 mL, 1333 mmol) dropwise while keeping internal temperature under 30° C. (temperature was maintained between 22 to 30° C.). After addition was complete, the reaction mixture was cooled to 17-18° C. and stirred overnight at room temperature. This main reaction mixture was cooled to 10° C. and added magnesium (15 g). Meanwhile, in a separate 1 L round-bottomed flask under N2, Mg (20 g, 0.5 eq) in THF (300 mL) was added a solution of FeCl3 (9 g, 0.5 eq) in anhydrous THF (30 mL) like described above. The obtained mixture was stirred at room temperature for 30 min, heated to 45° C. for 1 h, cooled to room temperature, and added dropwise into the main reaction mixture via an addition funnel (remaining magnesium was transferred by a spatula) while keeping the internal temperature under 30° C. The reaction was continued at room temperature for 1 h, cooled to 5° C. (ice bath) and quenched slowly with saturated NH4Cl solution (150 mL) (quench was exothermic satd. NH4Cl was added slowly with efficient stirring). Celite was added after quenching the reaction and stirred well. The mixture was filtered through a 3 L sintered funnel. The filter cake was washed with THF. The filtrate was concentrated under reduced pressure at 37° C. (bath temperature)/155 Torr to obtain a brown oil. The oil was cooled by ice bath and 6N HCl (500 mL) was poured into it slowly with efficient stirring) (addition of HCl was exothermic initially, then the exotherm subsided). The mixture was extracted with hexane (2×400 mL). The hexane layer was separated out and filtered through a pad of celite. The filtrate (hexane layer) was washed with water (3×300 mL), dried (Na2SO4) and silica (550 g) added; slurried well. The slurry was filtered and the filtrate (light yellow in color) was concentrated under reduced pressure (rotavapor; bath temp. 37 C at 185-188 Torr), to give the title compound as a light orange oil, (190 g, 91.4% purity by LC at 214 nm). 1H NMR (400 MHz, DMSO-d6) δ 1.56-1.71 (m, 4H), 1.80-1.88 (m, 2H), 1.96-2.05 (m, 2H), 3.22-3.29 (m, 1H), 7.35-7.40 (m, 1H), 7.16-7.65 (m, 2H).

reactant | magnesium | 1667 mmol, 40.5 g | [Mg] | Mg
reactant | N1,N1,N2,N2-tetramethylethane-1,2-diamine | 1333 mmol, 201 mL | CN(CCN(C)C)C | C6H16N2
reactant | 1-bromo-2-(trifluoromethyl)benzene | 1111 mmol, 150 mL | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | bromocyclopentane | 1333 mmol, 143 mL | BrC1CCCC1 | C5H9Br
reactant | magnesium | 15 g | [Mg] | Mg
reactant | HCl | 6N, 500 mL | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | 1-Cyclopentyl-2-(trifluoromethyl)benzene | C1(CCCC1)C1=C(C=CC=C1)C(F)(F)F | C12H13F3
